US05624923
2-Methyl-N-[4-(pyrrolo[1,2-a]quinoxalin-5 (4H)-ylcarbonyl)phenyl]benzamide
A mixture of 0.51 g of 4-[(2-methylbenzoyl)amino]benzoyl chloride and 0.36 g of 1,1'-carbonyldiimidazole in 6 ml of tetrahydrofuran is stirred at room temperature for 1 hour. To the reaction mixture is added 0.17 g of 4,5-dihydropyrrolo-[1,2-a]-quinoxaline followed by heating at reflux for 60 hours. The volatiles are concentrated vacuo to a residue which is dissolved in ethyl acetate. The organic layer is washed with 1N HCl, 1M NaHCO3, brine, dried with Na2SO4 and filtered through hydrous magnesium silicate. The volatiles are concentrated in vacuo to a residue which is chromatographed by elution with 1:2 ethyl acetate-hexanes to give 0.14 g of the desired product as a white solid, m.p. 206°-207° C.;

reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 0.51 g | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
reactant | 1,1'-carbonyldiimidazole | 0.36 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4,5-dihydropyrrolo-[1,2-a]-quinoxaline | 0.17 g | C1=CC=C2N1C1=CC=CC=C1NC2 | C11H10N2
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 2-Methyl-N-[4-(pyrrolo[1,2-a]quinoxalin-5 (4H)-ylcarbonyl)phenyl]benzamide | 0.14 g | CC1=C(C(=O)NC2=CC=C(C=C2)C(=O)N2CC=3N(C4=CC=CC=C24)C=CC3)C=CC=C1 | C26H21N3O2
